US08119663B2
Ethyl 1-(2,2-dimethylpropanoyl)-5-(4-methoxyphenyl)piperidine-3-carboxylate [racemic cis/trans isomer mixture]
10.0 g (18.99 mmol) of ethyl 1-(cyclopentylcarbonyl)-5-[4-(methoxy)phenyl]piperidine-3-carboxylate were dissolved in 50 ml of dichloromethane, and 2.88 g (28.48 mmol) of triethylamine were added at 0° C. 3.00 g (24.68 mmol) of pivaloyl chloride were then added dropwise. The reaction mixture was stirred at RT for 2 h. For work-up, the mixture was twice washed with water. The organic phase was dried over sodium sulphate and concentrated under reduced pressure.

reactant | ethyl 1-(cyclopentylcarbonyl)-5-[4-(methoxy)phenyl]piperidine-3-carboxylate | 18.99 mmol, 10.0 g | C1(CCCC1)C(=O)N1CC(CC(C1)C1=CC=C(C=C1)OC)C(=O)OCC | C21H29NO4
reactant | triethylamine | 28.48 mmol, 2.88 g | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 24.68 mmol, 3.00 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | Ethyl 1-(2,2-dimethylpropanoyl)-5-(4-methoxyphenyl)piperidine-3-carboxylate | CC(C(=O)N1CC(CC(C1)C1=CC=C(C=C1)OC)C(=O)OCC)(C)C | C20H29NO4
